US06313122B1
B. 2-[1-(4-Pyridyl)piperidin-4-ylmethylaminocarbonyl]amino-nitrobenzene
Using a similar procedure to that described for Example 48, Part A, 1-(4-pyridyl)piperidine-4-methylamine (1.34 g, 7.01 mmol) and 2-nitrophenyl isocyanate (1.21 g, 7.40 mmol) yielded 1.59 g (64%) of the title compound.

reactant | 1-(4-pyridyl)piperidine-4-methylamine | 7.01 mmol, 1.34 g | N1=CC=C(C=C1)N1CCC(CC1)CN | C11H17N3
reactant | 2-nitrophenyl isocyanate | 7.40 mmol, 1.21 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=O | C7H4N2O3
product | 2-[1-(4-Pyridyl)piperidin-4-ylmethylaminocarbonyl]amino-nitrobenzene | 1.59 g, 64% | N1=CC=C(C=C1)N1CCC(CC1)CNC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C18H21N5O3
